US07629474B2
Synthesis of methyl 1-[(1S)-1-(aminocarbonyl)propyl]-5-oxo-3-pyrrolidinecarboxylate
2-Hydroxy-5-oxo-2,5-dihydro-furan-3-carboxylic acid methyl ester (3.08 g) in methanol (40 ml) is added to a solution of (2S)-2-aminobutyramide (2.0 g) in methanol (30 ml) in a hydrogenation reactor and the mixture is maintained for at least 2 hours at room temperature. Then Pd/C catalyst (10 w/w %; Johnson Matthey 5% Pd on carbon—type 87L) is added and hydrogen introduced into the system under pressure. The temperature is kept at 40° C. maximum and the hydrogen pressure between 4 bar and 5 bar, followed by stirring for at least 20 hours following the initial reaction. The solution is then cooled between 15° C. and 25° C. and filtered to remove the catalyst. The solvent is evaporated under vacuum and the resulting yellow product is purified by preparative liquid chromatography (eluent: dichloromethane/methanol (95:5)) (Yield 43%).

reactant | 2-Hydroxy-5-oxo-2,5-dihydro-furan-3-carboxylic acid methyl ester | 3.08 g | COC(=O)C=1C(OC(C1)=O)O | C6H6O5
reactant | (2S)-2-aminobutyramide | 2.0 g | N[C@H](C(=O)N)CC | C4H10N2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | methyl 1-[(1S)-1-(aminocarbonyl)propyl]-5-oxo-3-pyrrolidinecarboxylate | Yield 43% | NC(=O)[C@H](CC)N1CC(CC1=O)C(=O)OC | C10H16N2O4
